US07067517B2
N-(6-Hydroxy-pyridin-3-yl)-3-methoxy-benzamide
Starting from 3-methoxybenzoyl chloride (1.71 g, 10.0 mmol) and using the procedure as described for the preparation of 4-Chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide yielded the title compound, which was used without further purification.

reactant | 3-methoxybenzoyl chloride | 10.0 mmol, 1.71 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | 4-Chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide | ClC1=CC=C(C(=O)NC=2C=NC(=CC2)O)C=C1 | C12H9ClN2O2
product | N-(6-Hydroxy-pyridin-3-yl)-3-methoxy-benzamide | OC1=CC=C(C=N1)NC(C1=CC(=CC=C1)OC)=O | C13H12N2O3
